US06586617B1
Synthesis of 5-Chloro-N-(4-cyano-2-nitrophenyl)-N-ethyl-2-thiophenesulfonamide (Compound No. 415)
To a suspension of sodium hydride (60%, 0.10 g (2.50 mmol)) in tetrahydrofuran (THF) (3.0 ml), 4-cyano-N-ethyl-2-nitroaniline (0.38 g (1.99 mmol)) was added with stirring at room temperature. To the mixture, upon stirring for 15 minutes at room temperature and after the solution had turned deep purple, 5-chloro-2-thiophenesulfonyl chloride (0.55 g (2.53 mmol)) was added and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was poured into water and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:3) as eluent, to give 0.22 g (30%) of the title compound as yellow crystals.

reactant | sodium hydride | 2.50 mmol, 0.10 g | [H-].[Na+]
reactant | 4-cyano-N-ethyl-2-nitroaniline | 1.99 mmol, 0.38 g | C(#N)C1=CC(=C(NCC)C=C1)[N+](=O)[O-] | C9H9N3O2
reactant | 5-chloro-2-thiophenesulfonyl chloride | 2.53 mmol, 0.55 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | 5-Chloro-N-(4-cyano-2-nitrophenyl)-N-ethyl-2-thiophenesulfonamide | 0.22 g, 30% | ClC1=CC=C(S1)S(=O)(=O)N(CC)C1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C13H10ClN3O4S2
